US05112839
A mixture of 384 mg of 2,2-dimethyl-4-[1-(2-methoxyethoxymethyl)-1,2-dihydro-2-oxo-3-pyridyl]-6-cyano-3-chromanol [obtainable from 1-(2-methoxyethoxy-methyl)-1,2-dihydro-2-oxopyridine and 2,2-dimethyl-3,4-epoxy-6-cyanochroman], 600 mg of finely powdered ZnBr2 and 4 ml of dichloromethane is stirred at 25° for 16 hours. The mixture is washed with saturated NaHCO3 solution, then with saturated NaCl solution, the wash solutions are extracted with ether, and the organic phases are combined and further worked up in the customary manner. 2,2-Dimethyl-4-(1,2-dihydro-2-oxo-3-pyridyl)-6-cyano-3-chromanol is obtained; m.p. 246°-247°.

reactant | 2,2-dimethyl-4-[1-(2-methoxyethoxymethyl)-1,2-dihydro-2-oxo-3-pyridyl]-6-cyano-3-chromanol | 384 mg | CC1(OC2=CC=C(C=C2C(C1O)C=1C(N(C=CC1)COCCOC)=O)C#N)C | C21H24N2O5
catalyst | ZnBr2 | [Zn+2].[Br-].[Br-]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 2,2-Dimethyl-4-(1,2-dihydro-2-oxo-3-pyridyl)-6-cyano-3-chromanol | CC1(OC2=CC=C(C=C2C(C1O)C=1C(NC=CC1)=O)C#N)C | C17H16N2O3
